US07820837B2
(2′,6′-dimethylbiphenyl-3-yl)methanol
2′,6′-Dimethylbiphenyl-3-carbaldehyde (18.5 g, 88.0 mmol) was dissolved in a mixed solvent of 1,2-dimethoxyethane (100 mL) and tetrahydrofuran (100 mL), and sodium borohydride (1.66 g, 44.0 mmol) was added under ice-cooling, and the mixture was stirred at the same temperature for 3 hr, further at room temperature for 3 hr. Diluted hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-50% ethyl acetate/hexane) to give the title compound (15.6 g, yield 83%) as a colorless oil.

reactant | 2′,6′-Dimethylbiphenyl-3-carbaldehyde | 88.0 mmol, 18.5 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)C=O | C15H14O
reactant | sodium borohydride | 44.0 mmol, 1.66 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (2′,6′-dimethylbiphenyl-3-yl)methanol | 15.6 g, yield 83% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CO | C15H16O
